US04167567
In the manner given in Example 15, 4-[4-[[7-(trifluoromethyl)phenyl-4-quinolinyl]amino]benzoyl]piperazine is reacted with p-trifluoromethylphenylsulfonyl chloride in the presence of triethylamine to give 1-[4-(trifluoromethyl)phenylsulfonyl]-4-[4-[[7-(trifluoromethyl)-4-quinolinyl]amino]benzoyl]piperazine.

reactant | 4-[4-[[7-(trifluoromethyl)phenyl-4-quinolinyl]amino]benzoyl]piperazine | FC(C1=CC=C2C(=CC(=NC2=C1)C1=CC=CC=C1)NC1=CC=C(C(=O)N2CCNCC2)C=C1)(F)F | C27H23F3N4O
reactant | p-trifluoromethylphenylsulfonyl chloride | FC(C1=CC=C(C=C1)S(=O)(=O)Cl)(F)F | C7H4ClF3O2S
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 1-[4-(trifluoromethyl)phenylsulfonyl]-4-[4-[[7-(trifluoromethyl)-4-quinolinyl]amino]benzoyl]piperazine | FC(C1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)C(C1=CC=C(C=C1)NC1=CC=NC2=CC(=CC=C12)C(F)(F)F)=O)(F)F | C28H22F6N4O3S
